US08580785B2
Preparation of 7-chloro-6-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-benzo[1,2,5]thiadiazole-5-carboxylic acid methylamide (T20.1.2)
See step f) of Example H2 using 4-chloro-6-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-7-oxa-2-thia-1,3,5-triaza-cyclopenta[b]naphthalen-8-one as starting material and methylamine (40% in H2O). After overnight reaction and chromatography column purification, a slightly brown solid is obtained (75%). LC/MS: 538/539 (M+Na)+.

reactant | 4-chloro-6-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-7-oxa-2-thia-1,3,5-triaza-cyclopenta[b]naphthalen-8-one | ClC=1C=2C(C=C3C(OC(=NC13)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)=O)=NSN2 | C17H5Cl2F3N6O2S
reactant | methylamine | CN | CH5N
product | 7-chloro-6-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-benzo[1,2,5]thiadiazole-5-carboxylic acid methylamide | CNC(=O)C=1C(=C(C=2C(=NSN2)C1)Cl)NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl | C18H10Cl2F3N7O2S
